US06329399B1
Preparation of N-(4-tert-butylbenzyl)methylamine
Chloroform (100 ml), was mixed with 10.1 g (56.6 mmol), of p-tert-butylbenzoic acid and 20.2 g of thionyl chloride, and the mixture was refluxed for 5 hours. The solvent and excess thionyl chloride were distilled off under reduced pressure and the residue was dissolved in a small amount of methanol. The solution was dropped to 17 ml of a 40% methylamine-methanol solution cooled on an ice bath. After dropping, the solution was taken out of the ice bath and stirred at room temperature for 48 hours. Then, 100 ml of 2N hydrochloric acid was added to the reaction mixture, which was extracted with dichloromethane, and after washing with water and saturated saline, respectively, the organic layer was dried with magnesium sulfate. After distilling off the solvent under reduced pressure, the resulting white crystals were dissolved in dichloromethane and the solution was washed with 1 liter of a saturated aqueous sodium hydrogen carbonate solution to remove p-tert-butylbenzoic acid, raw material. After the organic extract was dried with magnesium sulfate, the solvent was distilled off under reduced pressure to obtain 8.15 g (yield: 74.9%), of N-methyl-4-tert-butylbenzamide as white crystals. This was mixed with 110 ml of diethyl ether, 8.15 g (42.6 mmol), of N-methyl-4-tert-butylbenzamide and 2.88 g (85.2 mmol), of lithium aluminum hydride, and refluxed in nitrogen atmosphere for 6 hours. After the reflux, the reaction mixture was ice cooled and water was added thereto to decompose excess lithium aluminum hydride. Aluminum hydroxide deposited was filtered off and the filtrate was extracted with diethyl ether. After washing with water and saturated saline, respectively, the organic extract was dried with magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting yellow oily substance was distilled under reduced pressure (115 to 118°C./10 mmHg), to obtain 3.69 g (yield: 48.9%), of the target compound as yellow oily substance.

reactant | p-tert-butylbenzoic acid | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | thionyl chloride | 20.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl-4-tert-butylbenzamide | CNC(C1=CC=C(C=C1)C(C)(C)C)=O | C12H17NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | water | O | H2O
solvent | diethyl ether | 110 ml | C(C)OCC | C4H10O
solvent | Chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-tert-butylbenzyl)methylamine | yield: 74.9% | C(C)(C)(C)C1=CC=C(CCN)C=C1 | C12H19N
